US06113918
In the same manner as described in Example 25-(1), L-serinamide hydrochloride (169 mg, 1.2 mmol) was acylated with (R)-3-decanoyloxytetradecanoic acid (478 mg, 1.2 mmol) in the presence of EEDQ (371 mg, 1.5 mmol) in CH2Cl2 to afford 428 mg (74%) of N-[(R)-3-decanoyloxytetradecanoyl]-L-serinamide as a white solid: 1H NMR (CDCl3) δ0.88 (t, 6 H), 1.1-1.7 (m, 34 H), 2.33 (t, 2 H, J=7.5 Hz), 2.54 (d, 2 H, J=6.6 Hz), 3.35 (s, 2 H), 3.72 (dd, 1 H, J=11.0, 5.2 Hz), 3.84 (dd, 1 H, J=11.3, 5.0 Hz), 4.20 (t, 1 H, J=5.1 Hz), 5.26 (t, 1 H, J=6.4 Hz).

reactant | L-serinamide hydrochloride | 1.2 mmol, 169 mg | Cl.N[C@@H](CO)C(=O)N
reactant | (R)-3-decanoyloxytetradecanoic acid | 1.2 mmol, 478 mg | C(CCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C24H46O4
reactant | EEDQ | 1.5 mmol, 371 mg | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(R)-3-decanoyloxytetradecanoyl]-L-serinamide | 428 mg, 74% | C(CCCCCCCCC)(=O)O[C@@H](CC(=O)NC([C@@H](N)CO)=O)CCCCCCCCCCC | C27H52N2O5
